US06265434B1
Step A: 1-((4-Methoxy)benzyl)tetrazole
A mixture of 3.84 g (28.0 mmol) of (4-methoxy)benzylamine, 2.73 g (42.0 mmol) of sodium azide and 7.50 mL (45.0 mmol) triethyl orthoformate in 25 mL of HOAc was stirred at 80° C. for 20 h. The reaction was cooled and concentrated. The residue was partitioned between 100 mL of EtOAc and 100 mL of H2O and the layers were separated. The organic layer was washed with 100 mL of 2.0 N HCl, 100 mL of sat'd NaHCO3, 100 mL of sat'd NaCl, dried over MgSO4 and concentrated. Flash chromatography on 100 g of silica gel using 2:1 v/v hexanes/EtOAc, then 1:1 v/v hexanes/EtOAc as the eluant afforded 2.32 g of the title compound: 1H NMR (300 MHz) δ 3.82 (s, 3H), 5.53 (s, 2H), 6.93 (d, J=8.6, 2H), 7.27 (d, J=8.6, 2H), 8.46 (s, 1H).

reactant | (4-methoxy)benzylamine | 28.0 mmol, 3.84 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | sodium azide | 42.0 mmol, 2.73 g | [N-]=[N+]=[N-].[Na+]
reactant | triethyl orthoformate | 45.0 mmol, 7.50 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | HOAc | 25 mL | CC(=O)O | C2H4O2
product | 1-((4-Methoxy)benzyl)tetrazole | 2.32 g | COC1=CC=C(CN2N=NN=C2)C=C1 | C9H10N4O
